US07820649B2
N-(Isopropylcarbamoylmethyl)-5-(3-methylperhydro-1,4-diazepin-1-yl)-2-nitrobenzamide (72 mg, 0.191 mmol) and di-tert-butyldicarbonate (42 mg, 0.191 mmol) in DCM (5 mL) were stirred at room temperature overnight. Solvent was evaporated under reduced pressure to afford crude 4-{3-[(isopropylcarbamoylmethyl)carbamoyl]-4-nitrophenyl}-2-methylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (100 mg, 0.209 mmol, 100%) which was used directly in the next step.

reactant | N-(Isopropylcarbamoylmethyl)-5-(3-methylperhydro-1,4-diazepin-1-yl)-2-nitrobenzamide | 0.191 mmol, 72 mg | C(C)(C)NC(=O)CNC(C1=C(C=CC(=C1)N1CC(NCCC1)C)[N+](=O)[O-])=O | C18H27N5O4
reactant | di-tert-butyldicarbonate | 0.191 mmol, 42 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-{3-[(isopropylcarbamoylmethyl)carbamoyl]-4-nitrophenyl}-2-methylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.209 mmol, 100 mg, 100% | C(C)(C)(C)OC(=O)N1C(CN(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])C(NCC(NC(C)C)=O)=O)C | C23H35N5O6
